US04992459
3,5-Difluoro-4-methoxybenzaldehyde (3.38 g, 0.0196 mole) was added to aminoacetaldehyde dimethyl acetal (2.14 ml, 0.0196 mole) and the mixture was heated at 100° C. for 2 hours. The reaction mixture was cooled in ice, diluted with ethyl alcohol (35 ml), and sodium borohydride (0.743 g., 0.0196 mole) was added and the mixture was stirred overnight at 25° C. The solvent was removed under reduced pressure, the residue was dissolved in ethyl acetate, and the solution was washed with water and brine and then dried with sodium sulfate. The mixture was filtered, and the solvent removed under reduced pressure to give N-(3,5-difluoro-4-methoxybenzyl)-aminoacetaldehyde dimethyl acetal as an oil (4.94 g, 96%).

reactant | 3,5-Difluoro-4-methoxybenzaldehyde | 0.0196 mole, 3.38 g | FC=1C=C(C=O)C=C(C1OC)F | C8H6F2O2
reactant | aminoacetaldehyde dimethyl acetal | 0.0196 mole, 2.14 ml | COC(CN)OC | C4H11NO2
reactant | sodium borohydride | 0.0196 mole, 0.743 g | [BH4-].[Na+]
solvent | ethyl alcohol | 35 ml | C(C)O | C2H6O
product | N-(3,5-difluoro-4-methoxybenzyl)-aminoacetaldehyde dimethyl acetal | 4.94 g, 96% | COC(CNCC1=CC(=C(C(=C1)F)OC)F)OC | C12H17F2NO3
